US07183276B2
To a mixture of tert-butyl N-methyl-N-[2-(methylsulfonyl)ethyl]carbamate (0.81 g) and ethyl acetate (10 mL) was added dropwise a 4N hydrochloric acid.ethyl acetate solution (2 mL) with stirring under ice-cooling. After stirring at room temperature overnight, the precipitated crystals were collected by filtration and washed with ethyl acetate to give N-methyl-N-[2-(methylsulfonyl)ethyl]amine hydrochloride as crystals (0.38 g, yield 64%). Recrystallization from ethanol gave colorless prism crystals. melting point: 259–260° C.

reactant | tert-butyl N-methyl-N-[2-(methylsulfonyl)ethyl]carbamate | 0.81 g | CN(C(OC(C)(C)C)=O)CCS(=O)(=O)C | C9H19NO4S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-[2-(methylsulfonyl)ethyl]amine hydrochloride | 0.38 g, yield 64% | Cl.CNCCS(=O)(=O)C | InChI=1S/C4H11NO2S.ClH/c1-5-3-4-8(2,6)7;/h5H,3-4H2,1-2H3;1H
